US03950307
Preparation of 3,4,5,6-Tetrachlorophthalimide
3,4,5,6-Tetrachlorophthalic anhydride (0.30 mole) is charged into a glass reaction vessel. Concentrated ammonium hydroxide (280 ml) is incrementally added at room temperature with stirring. After the addition is completed the reaction slurry is heated with stirring for a period sufficient to evaporate most of the water present in the reaction mixture. The remaining solid is then dried in a forced air oven and is recrystallized. The recrystallized product is washed with acetone, filtered and dried to yield the desired product 3,4,5,6-tetrachlorophthalimide.

reactant | 3,4,5,6-Tetrachlorophthalic anhydride | 0.30 mole | ClC1=C2C(C(=O)OC2=O)=C(C(=C1Cl)Cl)Cl | C8Cl4O3
reactant | ammonium hydroxide | 280 ml | [OH-].[NH4+]
product | 3,4,5,6-tetrachlorophthalimide | ClC1=C2C(C(=O)NC2=O)=C(C(=C1Cl)Cl)Cl | C8HCl4NO2
